US07741327B2
A solution of (S)-4-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolane (1.00 g, 3.35 mmol) in ethyl acetate (50 mL) was treated with 10% palladium on carbon (0.360 g, 0.34 mmol) and the resulting mixture hydrogenated under 1 atm of hydrogen pressure. The resulting mixture was filtered through a pad of Celite® and the pad of Celite washed with ethyl acetate. The filtrate was concentrated in vacuo to afford 4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-phenol (696 mg, 100%).

reactant | (S)-4-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolane | 3.35 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]2OC(OC2)(C)C)C=C1 | C19H22O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.34 mmol, 0.360 g | [Pd] | Pd
product | 4-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-phenol | 696 mg, 100% | CC1(OC[C@@H](O1)CC1=CC=C(C=C1)O)C | C12H16O3
